US07902373B2
Step A: Preparation of tert-butyl 6-(2-fluorophenyl)nicotinate
To a round-bottom flask was added 2-fluoro phenylboronic acid (271 mg, 1.94 mmol), palladium tetrakis(triphenylphosphine) (22.4 mg, 0.0194 mmol)) and tert-butyl 6-bromonicotinate (500 mg, 1.94 mmol) and the mixture was evacuated 3× with N2. The solids were dissolved in 25 mL of DMF, followed by addition of 2.9 mL of 2 M cesium carbonate. The resulting mixture was heated to ˜90° C. The mixture was cooled to room temperature and then poured into a seperatory funnel, followed by addition of EtOAc and water (1×200 mL). The layers were separated and the organic extract washed with brine (1×200 mL), dried MgSO4, filtered and concentrated to afford an orange oil. The crude mixture was purified by chromatography (silica, 10% EtOAc:Heptane) to afford the desired product (224 mg, 40%). 1H NMR (400 MHz, DMSO-d6) □ ppm 9.16 (1H, d, J=2.2 Hz), 8.34 (1H, dd, J=8.3, 2.3 Hz), 7.90-8.05 (2H, m), 7.50-7.62 (1H, m), 7.33-7.44 (2H, m) 1.59 (9 H, s).

reactant | 2-fluoro phenylboronic acid | 1.94 mmol, 271 mg | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | tert-butyl 6-bromonicotinate | 1.94 mmol, 500 mg | BrC1=NC=C(C(=O)OC(C)(C)C)C=C1 | C10H12BrNO2
catalyst | palladium tetrakis(triphenylphosphine) | 0.0194 mmol, 22.4 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | tert-butyl 6-(2-fluorophenyl)nicotinate | 224 mg, 40% | FC1=C(C=CC=C1)C1=NC=C(C(=O)OC(C)(C)C)C=C1 | C16H16FNO2
